US06172085B2
2,3-Dihydro-2-[[4-(3-methoxybenzoyl)-1-piperazinyl]methyl]-2,4,6,7-tetramethyl-5-benzofuranamine
Using 2,3-dihydro-2,4,6,7-tetramethyl-2-[(1-piperazinyl)methyl]-5-benzofuranamine and m-anisic acid, the procedure of Example 10, presented hereinafter, was otherwise followed to provide the title compound. Yield 73%.

reactant | 2,3-dihydro-2,4,6,7-tetramethyl-2-[(1-piperazinyl)methyl]-5-benzofuranamine | CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)CN2CCNCC2 | C17H27N3O
reactant | m-anisic acid | C(C1=CC(=CC=C1)OC)(=O)O | C8H8O3
product | 2,3-Dihydro-2-[[4-(3-methoxybenzoyl)-1-piperazinyl]methyl]-2,4,6,7-tetramethyl-5-benzofuranamine | Yield 73% | COC=1C=C(C(=O)N2CCN(CC2)CC2(OC3=C(C2)C(=C(C(=C3C)C)N)C)C)C=CC1 | C25H33N3O3
